US06420375B1
Preparation of 2-acetyl-5-fluoro-3-methylbenzo[b]thiophene
The titled compound (7.43 g) was prepared as colorless crystals from 5-fluoro-3-methylbenzo[b]thiophene (9.97 g) and acetyl chloride (5.55 ml) by the similar reaction and purification procedure as described in Reference Example 35.

reactant | 5-fluoro-3-methylbenzo[b]thiophene | 9.97 g | FC1=CC2=C(SC=C2C)C=C1 | C9H7FS
reactant | acetyl chloride | 5.55 ml | C(C)(=O)Cl | C2H3ClO
product | 2-acetyl-5-fluoro-3-methylbenzo[b]thiophene | 7.43 g | C(C)(=O)C1=C(C2=C(S1)C=CC(=C2)F)C | C11H9FOS
